US05395962
1.00 g (8.76 mmol) of (1R,2R)-(-)-1,2-cyclohexanediamine of [α]D20 =-36.7° (c 4.14, H2O) and 1.02 g (8.78 mmol) of dl-trans-1,2-cyclohexanediol were added to 3 ml of toluene and then heated/dissolved therein, and the solution was cooled to room temperature. Afterward, the precipitated crystals were collected by filtration and then recrystallized from 3 ml of toluene twice to obtain 0,485 g of (1R,2R)-(-)-1,2-cyclohexanediamine-(1R,2R)-(-)-1,2-cyclohexanediol. Physical properties of the product are as follows.

reactant | (1R,2R)-(-)-1,2-cyclohexanediamine | 8.76 mmol, 1.00 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | H2O | O | H2O
reactant | trans-1,2-cyclohexanediol | [C@@H]1([C@@H](CCCC1)O)O | C6H12O2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | (1R,2R)-(-)-1,2-cyclohexanediamine (1R,2R)-(-)-1,2-cyclohexanediol | 0,485 g | [C@@H]1([C@@H](CCCC1)N)N.[C@@H]1([C@@H](CCCC1)O)O | InChI=1S/C6H14N2.C6H12O2/c2*7-5-3-1-2-4-6(5)8/h5-6H,1-4,7-8H2;5-8H,1-4H2/t2*5-,6-/m11/s1
